US04497821
2-Hydroxyethyl isopropyl 2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate
20 g (49.5 mmol) of 2-hydroxyethyl isopropyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate were introduced into a mixture of 83 ml of 96% strength nitric acid in 660 ml of water and heated to boiling for 1 hour. The mixture was then cooled down to 5° to 10° C. and made weakly alkaline with dilute sodium hydroxide solution. The oil which had separated out was extracted with methylene chloride, the extracts were dried over sodium sulphate and evaporated in vacuo. The oily residue was induced to crystallize by trituration with ether/petroleum ether, filtered off with suction and recrystallized from methanol.

reactant | 2-hydroxyethyl isopropyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate | 49.5 mmol, 20 g | CC=1NC(=C(C(C1C(=O)OCCO)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC(C)C)C | C20H24N2O7
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 660 ml | O | H2O
product | 2-Hydroxyethyl isopropyl 2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate | CC1=NC(=C(C(=C1C(=O)OCCO)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC(C)C)C | C20H22N2O7
